US05079260
A solution of 1-methyl-9-fluorenecarboxylic acid (4.0 g, 17.9 mmol) in 100 mL of THF was charged with IM THF solution of BH3 -THF complex (35 mL, 35 mmol) at 0° C. The reaction mixture was stirred overnight at room temperature then quenched with water (20 mL). The organic layer was washed with 10% potassium carbonate solution, water, brine, dried and evaporated to afford 1-methyl-9-fluorenemethanol (3.2 g, 84.9%).

reactant | 1-methyl-9-fluorenecarboxylic acid | 17.9 mmol, 4.0 g | CC1=CC=CC=2C3=CC=CC=C3C(C12)C(=O)O | C15H12O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1-methyl-9-fluorenemethanol | 3.2 g, 84.9% | CC1=CC=CC=2C3=CC=CC=C3C(C12)CO | C15H14O
